US05039805
5-[1-(t-Butoxy)formamido]valeric acid is coupled with 5-aminosalicyclic acid to give 5-[5-(1-t-butoxyformamido)valeramido]salicylic acid, m.p. 181° C.

reactant | 5-[1-(t-Butoxy)formamido]valeric acid | C(C)(C)(C)OC(=O)NCCCCC(=O)O | C10H19NO4
reactant | 5-aminosalicyclic acid | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
product | 5-[5-(1-t-butoxyformamido)valeramido]salicylic acid | C(C)(C)(C)OC(=O)NCCCCC(=O)NC1=CC=C(C(C(=O)O)=C1)O | C17H24N2O6
